US06506901B2
Step A: (2S)-2-{[4-(4-(Dimethoxymethyl)piperidin-1-yl)benzoyl]amino}-4-methylpentanoic Acid Ethyl Ester
A solution of 4-(4-(dimethoxymethyl)piperidinyl)benzoic acid (0.450 g, 1.6 mmol), 1-(3-(dimethylamino)propyl)-3-ethylcarbodiimide HCl (0.340 g, 1.77 mmol), N-ethyl morpholine (0.50 mL, 3.9 mmol), hydroxybenzotriazole (0.239 g, 1.77 mmol), and L-leucine ethyl ester HCl (0.322 g, 1.8 mmol) in THF (15 mL) was stirred at ambient temperature overnight. The solvent was evaporated in vacuo and the residue was dissolved in methylene chloride. The organic phase was washed with 1N HCl, 1N NaOH, brine and dried (Na2SO4). The solvent was evaporated in vacuo and the residue purified by flash chromatography (methylene chloride-methanol, 19:1) to give 0.163 g of the title compound.

reactant | 4-(4-(dimethoxymethyl)piperidinyl)benzoic acid | 1.6 mmol, 0.450 g | COC(C1CCN(CC1)C1=CC=C(C(=O)O)C=C1)OC | C15H21NO4
reactant | 1-(3-(dimethylamino)propyl)-3-ethylcarbodiimide HCl | 1.77 mmol, 0.340 g | Cl.CN(CCCN=C=NCC)C
reactant | N-ethyl morpholine | 3.9 mmol, 0.50 mL | C(C)N1CCOCC1 | C6H13NO
reactant | hydroxybenzotriazole | 1.77 mmol, 0.239 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | L-leucine ethyl ester HCl | 1.8 mmol, 0.322 g | Cl.C(C)OC([C@@H](N)CC(C)C)=O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (2S)-2-{[4-(4-(Dimethoxymethyl)piperidin-1-yl)benzoyl]amino}-4-methylpentanoic Acid Ethyl Ester | 0.163 g | C(C)OC([C@H](CC(C)C)NC(C1=CC=C(C=C1)N1CCC(CC1)C(OC)OC)=O)=O | C23H36N2O5
